US07465795B2
4-amino-N-cyclopropyl-8-(5-fluoro-6-methoxypyridin-3-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 5-fluoro-6-methoxypyridine-3-boronic acid (159 mg, 0.94 mmol) were reacted. After purification the title compound (146 mg, 88% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.13(d, J=4.9 Hz, 1H), 8.45 (d, J=7.4 Hz, 1H), 8.29 (s, 1H), 8.11 (a d, J=13.8 Hz, 1H), 7.95(a d, J=7.2 Hz, 1H), 7.81 (a t, J=7.8 Hz, 1H), 4.03 (s, 3H), 2.95 (m, 1H), 0.67 (m, 4H). MS APCI, m/z=354.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 5-fluoro-6-methoxypyridine-3-boronic acid | 0.94 mmol, 159 mg | FC=1C=C(C=NC1OC)B(O)O | C6H7BFNO3
product | 4-amino-N-cyclopropyl-8-(5-fluoro-6-methoxypyridin-3-yl)cinnoline-3-carboxamide | 146 mg, 88% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC(=C(C1)F)OC)C(=O)NC1CC1 | C18H16FN5O2
